US07531532B2
3-{4-[2-Fluoro-4-(3-phenylacetylthioureido)phenoxy]pyridin-2-yl}-1-methyl-1-(1-methylpiperidin-4-yl)urea
2-Phenylacetyl chloride (0.032 ml) was dissolved in acetonitrile (3 ml) under a nitrogen atmosphere, and then potassium thiocyanate (46.6 mg) was added thereto at 60° C., followed by stirring at the same temperature for 2 hrs. The reaction mixture was cooled down to room temperature, and then ethyl acetate and a saturated aqueous solution of sodium hydrogencarbonate were added thereto, followed by stirring for 30 min. The organic layer was separated, washed with a saturated aqueous solution of sodium hydrogencarbonate, water and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, to which was added toluene (1 ml)-ethanol (1 ml) to prepare a solution. 3-[4-(4-Amino-2-fluorophenoxy)pyridin-2-yl]-1-methyl-1-(1-methylpiperidin-4-yl)urea (40.0 mg) was dissolved in ethanol (1 ml) under a nitrogen atmosphere, and then D-10-camphorsulfonic acid (24.9 mg) was added thereto, followed by stirring for 5 min. To the reaction mixture was added the solution of 2-phenylacetyl isothiocyanate in toluene-ethanol (2 ml) synthesized above, followed by stirring at room temperature for 30 min. The reaction mixture was partitioned between ethyl acetate and a saturated aqueous solution of sodium hydrogencarbonate. The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate, water and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (FUJI Silysia NH, eluent; ethyl acetate). Fractions containing the target compound were concentrated to give a residue, to which diethyl ether (0.5 ml)-hexane (1.0 ml) was then added to suspend. The solid was filtered off and dried under aeration to provide the titled compound (10.3 mg, 17.5%) as a white solid.

reactant | 2-Phenylacetyl chloride | 0.032 ml | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | potassium thiocyanate | 46.6 mg | [S-]C#N.[K+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | 3-[4-(4-Amino-2-fluorophenoxy)pyridin-2-yl]-1-methyl-1-(1-methylpiperidin-4-yl)urea | 40.0 mg | NC1=CC(=C(OC2=CC(=NC=C2)NC(N(C2CCN(CC2)C)C)=O)C=C1)F | C19H24FN5O2
reactant | D-10-camphorsulfonic acid | 24.9 mg | CC1(C2CCC1(C(=O)C2)CS(=O)(=O)O)C | C10H16O4S
reactant | 2-phenylacetyl isothiocyanate | C1(=CC=CC=C1)CC(=O)N=C=S | C9H7NOS
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | toluene-ethanol | 2 ml | C=1(C(=CC=CC1)CCO)C | C9H12O
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | hexane | 1.0 ml | CCCCCC | C6H14
solvent | diethyl ether | 0.5 ml | C(C)OCC | C4H10O
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-{4-[2-Fluoro-4-(3-phenylacetylthioureido)phenoxy]pyridin-2-yl}-1-methyl-1-(1-methylpiperidin-4-yl)urea | 10.3 mg, 17.5% | FC1=C(OC2=CC(=NC=C2)NC(N(C2CCN(CC2)C)C)=O)C=CC(=C1)NC(=S)NC(CC1=CC=CC=C1)=O | C28H31FN6O3S
